US07576115B2
3) Synthesis of 4-[(2-{1-[5-(3-bromo-4-fluorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]benzoic acid
To methyl 4-[(2-{1-[5-(3-bromo-4-fluorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]benzoate (0.051 mmol, 24.9 mg), methanol (2.5 mL) was added, and 1 M aqueous sodium hydroxide (5 eq., 0.255 mL) was added at room temperature. After 10 minutes of stirring at room temperature and 1.5 hours of stirring at 60° C., the reactor was cooled to room temperature, and 1 M hydrochloric acid (5 eq., 0.255 mL) and water were added. The precipitated solid was recovered by filtration, washed with water and dried by means of a vacuum pump, and the residue was further purified by silica gel thin layer chromatography (chloroform/methanol=10/1). After addition of chloroform/n-hexane, the precipitated solid was dried to give the desired product as a yellow solid (9.0 mg, yield 37%)

reactant | methyl 4-[(2-{1-[5-(3-bromo-4-fluorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]benzoate | 0.051 mmol, 24.9 mg | BrC=1C=C(C=CC1F)C1=C(C(=NN1C)C(C)=NNC(=O)C1=CC=C(C(=O)OC)C=C1)O | C21H18BrFN4O4
reactant | methanol | 2.5 mL | CO | CH4O
reactant | sodium hydroxide | 1 M, 0.255 mL, 5 eq. | [OH-].[Na+]
reactant | hydrochloric acid | 1 M, 0.255 mL, 5 eq. | Cl | ClH
solvent | water | O | H2O
product | 4-[(2-{1-[5-(3-bromo-4-fluorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]benzoic acid | 9.0 mg, yield 37% | BrC=1C=C(C=CC1F)C1=C(C(=NN1C)C(C)=NNC(=O)C1=CC=C(C(=O)O)C=C1)O | C20H16BrFN4O4
